US04115059
A 25.0 gm (0.13 mole) portion of p-toluenesulfonyl chloride was dissolved in 100 ml of acetonitrile and combined in a 250 ml round bottom flask with 25.0 ml of water containing 1.5 gm (0.196 mole) of potassium fluoride. This mixture was stirred and heated under reflux for one hour. Acetonitrile was then removed under reduced pressure in a rotary evaporator. This resulted in crystallization of p-toluenesulfonyl fluoride which was removed by filtration, washed twice with water, and dried, giving 20.7 gm (91% yield) of product with mp 41°-41.2° C; (literature is 41°-42° C; W. Davies and J. H. Dick, J. Chem. Soc., 2104, 1931). The NMR and IR spectra were in agreement with the assigned structure.

reactant | p-toluenesulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | 0.196 mole, 25.0 ml, 1.5 gm | O | H2O
reactant | potassium fluoride | [F-].[K+]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | p-toluenesulfonyl fluoride | C1(=CC=C(C=C1)S(=O)(=O)F)C | C7H7FO2S
